US06051712
By brominating 2-methyl-4-methoxy-quinazoline [Recl. Trav. Chim. Pays-Bas 76, 401 (1957)] with N-bromosuccinimide in carbon tetrachloride in an analogous manner to the procedure described for the preparation of 6-bromomethylquinoxaline [J. Het. Chem. 11, 595(1974)] from 6-methylquinoxaline there was obtained 2-bromomethyl-4-methoxy-quinazoline as a light yellow solid; MS: 252, 254 (M)+.

reactant | 2-methyl-4-methoxy-quinazoline | CC1=NC2=CC=CC=C2C(=N1)OC | C10H10N2O
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-bromomethylquinoxaline | BrCC=1C=C2N=CC=NC2=CC1 | C9H7BrN2
reactant | 6-methylquinoxaline | CC=1C=C2N=CC=NC2=CC1 | C9H8N2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromomethyl-4-methoxy-quinazoline | BrCC1=NC2=CC=CC=C2C(=N1)OC | C10H9BrN2O
